* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT3023 1 2 3 4 5 6 7 8 9 10
Q1 N006 N004 8 0 PN
Q2 N004 N008 3 0 NA
Q3 N008 N003 N010 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 5 0 NP 10 temp=27
R2 5 3 12K
R3 N010 3 10K
C2 6 N003 15p
Q5 6 4 N009 0 FB temp=27
R6 N009 5 106.8K
R5 7 3 20Meg
I1 7 3 1µ load
A1 7 3 3 3 3 3 N002 3 SCHMITT Vt=.8 Vh=1m trise=1m
G2 8 N003 N002 3 1.2µ
G1 8 N008 N002 3 1.2µ
R1 8 N004 600K
R8 N006 6 1.17
A2 N005 3 N008 N008 N008 N008 3 N008 VARISTOR
D3 3 N005 F
G3 3 N005 6 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 8 6 X
C5 6 3 10p
C7 8 3 10p
C8 5 3 1p
G4 3 N005 8 3 table(1.3 1m 2.4 3m 10 4m)
G5 N005 3 N002 3 table(0 3m 1 0)
C4 8 N003 100p Rser=.67G Rpar=6G
Q6 N017 N015 8 0 PN
Q8 N015 N019 3 0 NA
Q9 N019 N014 N021 0 NP temp=27
C6 N019 N014 12p Rser=350K
Q10 N014 N014 1 0 NP 10 temp=27
R4 1 3 12K
R11 N021 3 10K
C9 10 N014 15p
Q11 10 2 N020 0 FB temp=27
R12 N020 1 106.8K
R13 9 3 20Meg
I2 9 3 1µ load
A3 9 3 3 3 3 3 N012 3 SCHMITT Vt=.8 Vh=1m trise=1m
G6 8 N014 N012 3 1.2µ
G7 8 N019 N012 3 1.2µ
R14 8 N015 600K
R15 N017 10 1.17
A4 N016 3 N019 N019 N019 N019 3 N019 VARISTOR
D2 3 N016 F
G8 3 N016 10 N017 10m
Q12 N014 N015 N017 0 P 1m
D4 8 10 X
C11 10 3 10p
C13 1 3 1p
G9 3 N016 8 3 table(1.3 1m 2.4 3m 10 4m)
G10 N016 3 N012 3 table(0 3m 1 0)
C14 8 N014 100p Rser=.67G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT3023
